US07741341B2
(i) (1-Pyrimidin-4-yl-piperidin-4-yl)-carbamic acid tert-butyl ester
To a solution of 395 mg [1-(2-Chloro-pyrimidin-4-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester in 10 mL ethanol and 0.3 mL acetic acid, 20 mg Pd/C (10%) were added and the mixture purged with argon for 10 min. Then the mixture was stirred under a hydrogen atmosphere for 5 h at RT. After addition of 10 mL ethyl acetate the reaction mixture was filtered through a pad of celite. The solvent was evaporated under reduced pressure and the residue codistilled twice with toluene to give the product as a white solid. Yield: 468 mg.

reactant | [1-(2-Chloro-pyrimidin-4-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 395 mg | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC(=NC=C1)Cl)=O | C14H21ClN4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | (1-Pyrimidin-4-yl-piperidin-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC=NC=C1)=O | C14H22N4O2
